data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=[NH:10])O[Si-](C)(C)(C)Cl.[CH2:20]=[OH+:21]>>CC(=[NH+:10][CH2:20][OH:21])O[Si-](C)(C)(C)Cl 10=20;20,21=21
CCC([O-])[OH+:11][Na:10]>>CCC([OH:11])[O-].[Na+:10] 10,11=11
[B-:10]([O+:11](C)C1=CC=C(C=C1)CCC)(Br)(Br)Br>>[B:10](Br)(Br)Br.CCCC1=CC=C(C=C1)[O:11]C 10,11=11
[Li][P:10](C)(C)(C)[Cl:11]>>[Li][P+:10](C)(C)C.[Cl-:11] 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CCC3(CCC[CH:11]=[C:10]3C2)C.CC(=O)[O-].CO>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC12CCC[CH+:11][C:10]13C[CH:20]3CC2.CC(=O)[O-].CO 10,11=10,20;20,21=21
CC[C:20](=[O:21])OC1=CC=C(C=C1)[N+](=O)[O-].C1=C[N:10]=CN1>>CC[C:20]([N+:10]1=CNC=C1)([O-:21])OC2=CC=C(C=C2)[N+](=O)[O-] 10=20;20,21=21
CC1C[C:20](=[NH+:21]C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C)[O:10][C:11](C(F)(F)F)([O-:12])OC(=O)C(F)(F)F>>C(=O)(C(F)(F)F)O[C:11](=[O:12])C(F)(F)F.CC1C[C:20](=[O:10])[NH:21]C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)([O-:10])OC(=O)C>>[H:20][O:10]C(C)(N(CC)CC)OC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH2+:21]N.CN1C(=CN2C=CC=C2C1=O)CCCN3C(=[O:10])C4=C(C3(NN)[O-])C=CC=C4.O.[Cl-].[K+]>>N[NH2:21].[H:20][O+:10]=C1C2=C(C=CC=C2)C(N1CCCC3=CN4C=CC=C4C(=O)N3C)(NN)[O-].O.[Cl-].[K+] 10=20;20,21=21
CCOC(=O)C[NH2+:21][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH:10].O>>CCOC(=O)C[NH2:21].C1=CC=C(C=C1)[P:20](=[OH+:10])(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
C[SH:10].[CH3:20][I:21]>>C[SH+:10][CH3:20].[I-:21] 10=20;20,21=21
CC(C)[CH+:20]C1=CC=CC=C1.[OH2:10]>>CC(C)[CH:20](C1=CC=CC=C1)[OH2+:10] 10=20,
C[N:10](C)[S:20](=O)(=O)[Cl:21]>>C[N+:10](=[S:20](=O)=O)C.[Cl-:21] 10=20;20,21=21
CCC1[CH:10]=[CH:11]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCC1C2C[CH2:20][CH:10]1[CH+:11]C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C[CH+:20]C.C1=C[CH:10]=[C:11](C=C1)Br>>C[CH:20](C)[CH:10]1C=CC=C[C+:11]1Br 10,11=10,20
[H:20][OH2+:21].C[C:11](=[CH2:10])Br>>[H:20][CH2:10][C+:11](C)Br.[OH2:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN[C:11](=[CH:10]COCC)[OH:12]>>[H:20][CH:10](COCC)[C:11](=[OH+:12])NCC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC1(C2CC1C(=C(C2)[NH2:10])CC([C:20](=[O:21])C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.CC(=O)O.O.[I-]>>CC1(C2CC1C3=C(C2)[NH2+:10][C:20](C(C3)[N+]4=CC=CC=C4)(C5=C(C=CC=C5)F)[O-:21])C.CC(=O)O.O.[I-] 10=20;20,21=21
[CH:20]#[N:21].[NH3:10].[C-]#N.[NH4+].O>>[CH:20](=[N-:21])[NH3+:10].[C-]#N.[NH4+].O 10=20;20,21=21
C[NH:10]C.CO[CH:20]=[OH+:21].[Cl-]>>C[NH+:10](C)[CH:20]([OH:21])OC.[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)CC=CC[O-:10]>>[H:20][O:10]CC=CCC1=CC=CC=C1.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]CC.[C-:10](I)(I)I>>[H:20][C:10](I)(I)I.CC[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OCC)C(C)C.[F-:10]>>[H:20][F:10].CCO[C:22]1=[C:21](C=CC=C1)C(C)C 10=20;20,21=21,22
C(C(=O)[O-:10])Cl.[OH2+][Ca:20]O>>C(C(=O)[O:10][Ca-:20]([OH2+])O)Cl 10=20,
CC(=CCCC(=CCCC(=CCCC(=C[CH2:10][OH2+:11])C)C)C)C>>CC(=CCCC(=CCCC(=CCCC(=C[CH2+:10])C)C)C)C.[OH2:11] 10,11=11
CN[CH:20]([N:10](C)C)[OH2+:21].[Cl-]>>CN[CH:20]=[N+:10](C)C.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][O+:21]=CSC.[OH2:10]>>[H:20][OH2+:10].CSC=[O:21] 10=20;20,21=21
[H:20][OH2+:21].CC(CC(=O)C1=CC=C(C=C1)I)(C2=CC=C(C=C2)I)[O-:10]>>[H:20][O:10]C(C)(CC(=O)C1=CC=C(C=C1)I)C2=CC=C(C=C2)I.[OH2:21] 10=20;20,21=21
[H:20][N:21]1C(=O)N(C(=O)N1)C2=CC=CC=C2.C1CN2CC[N:10]1CC2.CCOC(=O)C=CC(=O)OCC>>[H:20][N+:10]12CCN(CC1)CC2.C1=CC=C(C=C1)N2C(=O)N[N-:21]C2=O.CCOC(=O)C=CC(=O)OCC 10=20;20,21=21
[H:20][O+:21](CC1=CC(=CC=C1)OC2=CC=CC=C2)P(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)N(C(=O)OCC)NC(=O)OCC.C(CC(=C(F)F)F)CC(=O)[O-:10]>>[H:20][O:10]C(=O)CCCC(=C(F)F)F.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CC4=CC(=CC=C4)OC5=CC=CC=C5 10=20;20,21=21
C[CH:20]=[S+:21]C1=CC=CC=C1.C(=O)(C(F)(F)F)[O-:10].C1=CC=[NH+]C=C1>>C[CH:20]([O:10]C(=O)C(F)(F)F)[S:21]C1=CC=CC=C1.C1=CC=[NH+]C=C1 10=20;20,21=21
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C=O)O[C:20](C)([O-:10])[O:21]C(=O)C.CC(=O)O.C1=CC=C(C=C1)S>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)(C=O)O[C:20](=[O:10])C.CC(=O)[O-:21].CC(=O)O.C1=CC=C(C=C1)S 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC#C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C#CC[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
COC1[CH:20](C(C2C(O1)COC(O2)C3=CC=CC=C3)[I:10])[I:21].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1>>COC1[CH:20]2C([I+:10]2)C3C(O1)COC(O3)C4=CC=CC=C4.[I-:21].C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1 10=20;20,21=21
CC1CC2(C3CC4=C5C2(CC[N+:21]3([CH3:20])C#N)C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C.[Br-:10]>>CC1CC2(C3CC4=C5C2(CC[N:21]3C#N)C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C.[CH3:20][Br:10] 10=20;20,21=21
CC(=O)O[Si:20](C)(C)C.C[O-:10]>>CC(=O)O[Si-:20](C)(C)(C)[O:10]C 10=20,
CC=N[OH:10].CC(=O)O[C:20](=[O:21])C>>CC=N[OH+:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
